US05106530
12.3 g (0.1 mol) of commercially available chloromethyltrimethylsilane were dissolved in 100 ml of diethyl ether, and this solution was added dropwise over the course of one hour with stirring at 20° C. and under a protective gas to a mixture of 3 g of magnesium turnings, an initiating amount of 2 ml of the above mixture and a trace of ethyl iodide after the reaction had commenced. When the addition was complete, the mixture was refluxed for a further 30 minutes, then cooled and decanted from the excess magnesium. The solution obtained was added dropwise over the course of 30 minutes with stirring at 20°-30° C. to a solution of 22.7 g (0.1 mol) of 2-(4-chlorophenyl)ethyl toluenesulfonate (obtainable from commercially available 2-(4-chlorophenyl)ethanol by customary reaction with toluenesulfonyl chloride) in 100 ml of tetrahydrofuran. When the addition was complete, 100 ml of the solvent mixture were removed by distillation and replaced by 50 ml of tetrahydrofuran. The mixture was heated at an internal temperature of 60° C. for 60 minutes, during which a precipitate of magnesium tosylate formed. After cooling, the mixture was poured onto ice and acidified using a little hydrochloric acid, and the aqueous phase was extracted twice with tert.butyl methyl ether. The combined organic phases were washed with NaCl solution, dried and evaporated. Fractional distillation of the residue at 16 hPa and 115°-118° C. gave 17.1 g (75.4% of theory) of 1-(1-trimethylsilylpropyl)-4-chlorobenzene.

reactant | chloromethyltrimethylsilane | ClC[Si](C)(C)C | C4H11ClSi
reactant | magnesium | 3 g | [Mg] | Mg
reactant | ethyl iodide | C(C)I | C2H5I
reactant | 2-(4-chlorophenyl)ethyl toluenesulfonate | 0.1 mol, 22.7 g | C=1(C(=CC=CC1)S(=O)(=O)OCCC1=CC=C(C=C1)Cl)C | C15H15ClO3S
reactant | 2-(4-chlorophenyl)ethanol | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | toluenesulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(1-trimethylsilylpropyl)-4-chlorobenzene | 17.1 g, 75.4% | C[Si](C(CC)C1=CC=C(C=C1)Cl)(C)C | C12H19ClSi
